US08937150B2
3-methyl-4-(piperidin-1-yl)aniline
To a solution of 1-(2-methyl-4-nitrophenyl)piperidine (6.75 g, 30.6 mmol) in ethyl acetate (50 mL) was added 10% palladium on carbon (0.033 g, 0.306 mmol) and the mixture hydrogenated (hydrogen balloon) at room temperature for 20 hours. The mixture was then filtered through diatomaceous earth and washed with ethyl acetate; the filtrate was then concentrated to afford 5.5 g (94%) of the title compound. MS (ESI) m/z 191 (M+H)+.

reactant | 1-(2-methyl-4-nitrophenyl)piperidine | 30.6 mmol, 6.75 g | CC1=C(C=CC(=C1)[N+](=O)[O-])N1CCCCC1 | C12H16N2O2
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 0.306 mmol, 0.033 g | [Pd] | Pd
product | 3-methyl-4-(piperidin-1-yl)aniline | 5.5 g, 94% | CC=1C=C(N)C=CC1N1CCCCC1 | C12H18N2
